US09119868B2
Step 2: 6-(N-(4-Amino-3-cyanophenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropyl-N-methylbenzofuran-3-carboxamide
A solution of Na2S2O4 (4.98 g, 28.6 mmol) in water (50 mL) was added dropwise to a solution of 2-(4-chlorophenyl)-6-(N-(3-cyano-4-nitrophenyl)methylsulfonamido)-5-cyclopropyl-N-methylbenzofuran-3-carboxamide (2.70 g, 4.77 mmol) in THF at room temperature under N2. The mixture was stirred overnight. More water was added and then extracted with EtOAc. The combined extracts were washed with brine, dried over Na2SO4. Concentrated under reduced pressure, the crude residue was purified by chromatography on silica gel eluted with 0-15% EtOAc in DCM to give the product (2.3 g, 83%) as a white solid. LCMS (m/z, ES+)=535 (M+H+).

reactant | Na2S2O4 | 28.6 mmol, 4.98 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | 2-(4-chlorophenyl)-6-(N-(3-cyano-4-nitrophenyl)methylsulfonamido)-5-cyclopropyl-N-methylbenzofuran-3-carboxamide | 4.77 mmol, 2.70 g | ClC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C(=C2)N(S(=O)(=O)C)C2=CC(=C(C=C2)[N+](=O)[O-])C#N)C2CC2 | C27H21ClN4O6S
solvent | water | 50 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 6-(N-(4-Amino-3-cyanophenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropyl-N-methylbenzofuran-3-carboxamide | 2.3 g, 83% | NC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)Cl)C(=O)NC)C=C1C1CC1)C#N | C27H23ClN4O4S
